US07495016B2
1.2 Preparation of 3-[4-(3-cyclopentyloxy-4-methoxyphenyl)-2-oxo-pyrrolidin-1-yl]benzamide according to General Procedure IV
To a solution of 3-[4-(3-cyclopentyloxy-4-methoxyphenyl)-2-oxo-pyrrolidin-1-yl]benzonitrile (12.5 mg, 0.033 mmol) in ethanol (0.5 mL) was added 2 μL of a 25% NaOH solution, followed by 29 μL of 35% H2O2. The temperature of the reaction mixture was kept at 50° C. for 3 h. Upon completion, 5% H2SO4 was added until the mixture was neutral (pH 7). The reaction mixture was extracted with EtOAc and dried with MgSO4. Purification on silica gel afforded the product as a white solid. Yield: 94%.

reactant | 3-[4-(3-cyclopentyloxy-4-methoxyphenyl)-2-oxo-pyrrolidin-1-yl]benzonitrile | 0.033 mmol, 12.5 mg | C1(CCCC1)OC=1C=C(C=CC1OC)C1CC(N(C1)C=1C=C(C#N)C=CC1)=O | C23H24N2O3
reactant | NaOH | [OH-].[Na+]
reactant | H2O2 | 29 μL | OO | H2O2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | 3-[4-(3-cyclopentyloxy-4-methoxyphenyl)-2-oxo-pyrrolidin-1-yl]benzamide | Yield: 94% | C1(CCCC1)OC=1C=C(C=CC1OC)C1CC(N(C1)C=1C=C(C(=O)N)C=CC1)=O | C23H26N2O4
